US05620989
b) 3-Phenyl-3-ethoxycarbonyl piperidine 2-one
A solution of 4-phenyl 4,4 diethoxycarbonyl butyronitrile (16.49 g) in dry ethanol (250 ml) was hydrogenated over platinum dioxide at 50 psi for 8 hours. The catalyst was filtered off and the solvent removed under reduced pressure. Product recrystallised from ether (14.1 g) mp 79°-80° C. 1H NMR (360 MHz, CDCl3) δH 1.24 (t, 3H, J=7.0 Hz, CH2CH3), 1.71 (2H, m, CH2CH2CH2C), 2.32 (1H, m, CH2CH2CHHC), 2.68 (1H, m, CH2CH2CHHC), 3.36 (2H, m, CH2CH2CH2C), 4.22 (2H, q, J=7.0 Hz, CH2CH3), 6.26 (1H, bs, NH), 7.30 (5H, m, Ar H). m/z (CI+) 248 (M+1)+.

reactant | 4-phenyl 4,4 diethoxycarbonyl butyronitrile | 16.49 g | C1(=CC=CC=C1)C(CCC#N)(C(=O)OCC)C(=O)OCC | C16H19NO4
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum dioxide | [Pt](=O)=O
product | 3-Phenyl-3-ethoxycarbonyl piperidine 2-one | C1(=CC=CC=C1)C1(C(NCCC1)=O)C(=O)OCC | C14H17NO3
